US06451740B2
0.34 g of isoamyl nitrite was added dropwise to a mixture of 1.5 g of 2-(3-benzyloxyphenoxy)-5-fluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]aniline, 0.57 g of copper (I) chloride, 1.17 g of copper (II) chloride, and 21 ml of acetonitrile at room temperature, and the mixture was stirred for 1 hour. This reaction solution was poured into 2% hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 1.01 g of ([3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]methyl)benzene.

reactant | isoamyl nitrite | 0.34 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 2-(3-benzyloxyphenoxy)-5-fluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]aniline | 1.5 g | C(C1=CC=CC=C1)OC=1C=C(OC2=C(N)C=C(C(=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)C=CC1 | C25H19F4N3O4
reactant | hydrochloric acid | Cl | ClH
catalyst | copper (I) chloride | 0.57 g | [Cu]Cl
catalyst | copper (II) chloride | 1.17 g | [Cu](Cl)Cl
solvent | acetonitrile | 21 ml | C(C)#N | C2H3N
product | ([3-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}phenoxy]methyl)benzene | 1.01 g | ClC1=C(OC=2C=C(OCC3=CC=CC=C3)C=CC2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C25H17ClF4N2O4
